US09085563B2
2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-(diethylamino)-3-methylbutanoate
2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-amino-3-methylbutanoate (92 mg) was dissolved in acetonitrile (18 mL). Ethyl iodide (74 mg) was added. The mixture was stirred at 80° C. and allowed to react overnight. The solvent was removed by rotary evaporation in vacuo. White solid (30 mg) was obtained after the crude product was purified by silica gel column (eluted with acetic ether: petroleum ether=1:1). 1H NMR (CDCl3, ppm) δ 7.86-7.90 (m, 2H), 7.76-7.79 (m, 2H), 4.97-5.08 (m, 1H), 4.38-4.43 (m, 1H), 4.05-4.30 (m, 3H), 3.15-3.25 (m, 1H), 2.95-3.05 (m, 1H), 2.80-2.95 (m, 2H), 2.45-2.58 (m, 4H), 2.10-2.20 (m, 1H), 1.90-2.10 (m, 2H), 1.00-1.20 (m, 7H), 0.95-0.98 (m, 3H), 0.87-0.91 (m, 3H).

reactant | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-amino-3-methylbutanoate | 92 mg | N[C@H](C(=O)O)C(C)C.OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O
reactant | Ethyl iodide | 74 mg | C(C)I | C2H5I
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-(diethylamino)-3-methylbutanoate | 30 mg | C(C)N([C@H](C(=O)O)C(C)C)CC.OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O | InChI=1S/C15H14N2O5.C9H19NO2/c18-8-7-16-12(19)6-5-11(15(16)22)17-13(20)9-3-1-2-4-10(9)14(17)21;1-5-10(6-2)8(7(3)4)9(11)12/h1-4,11,18H,5-8H2;7-8H,5-6H2,1-4H3,(H,11,12)/t;8-/m.0/s1
